US09227919B2
To a stirred solution of (methoxymethylene)triphenylphosphorane (6.74 g, 21.99 mmol) in tetrahydrofuran (30 mL) was added drop-wise a solution of potassium tert-butoxide (3.08 g, 27.5 mmol) in THF at −30° C. under argon, and the mixture was stirred for 30 min. Then a solution of (R)-3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene]-3′-carbaldehyde (4.0 g, 18.33 mmol) in THF was added drop-wise and reaction was stirred for 1 h at −30° C. Reaction was monitored by TLC. Reaction mixture quenched with water at −30° C. and allowed to RT, diluted with water (25 mL) and extracted with ethyl acetate (2×50 mL), dried over Na2SO4, filtered and concentrated to give crude product (8 g). The crude compound was purified with silica gel flash column chromatography (Biotage) to give (R)-3′-(2-methoxyvinyl)-3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene] (3.5 g, 14.21 mmol, 78% yield) as colourless liquid; m/z 246.6.

reactant | (methoxymethylene)triphenylphosphorane | 21.99 mmol, 6.74 g | COC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H19OP
reactant | potassium tert-butoxide | 27.5 mmol, 3.08 g | CC(C)([O-])C.[K+]
reactant | (R)-3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene]-3′-carbaldehyde | 18.33 mmol, 4.0 g | C12(C[C@@H](CC3=CC=CC=C13)C=O)OCCO2 | C13H14O3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | (R)-3′-(2-methoxyvinyl)-3′,4′-dihydro-2′H-spiro[[1,3]dioxolane-2,1′-naphthalene] | 14.21 mmol, 3.5 g, 78% yield | COC=C[C@H]1CC2(C3=CC=CC=C3C1)OCCO2 | C15H18O3
